US06919338B2
Methyl(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl)acetate
Methyl(2-amino-1,3-thiazol-5-yl)acetate (4.3 g, 25 mmol) was reacted with di-tert-butyl dicarbonate (10.9 g, 50 mmol) neat, at 100° C. for 2 hours. The cold mixture was triturated in ether to give title compound as a solid (4.3 g, 63%).

reactant | Methyl(2-amino-1,3-thiazol-5-yl)acetate | 25 mmol, 4.3 g | COC(CC1=CN=C(S1)N)=O | C6H8N2O2S
reactant | di-tert-butyl dicarbonate | 50 mmol, 10.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | Methyl(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl)acetate | 4.3 g, 63% | COC(CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C11H16N2O4S
